US04697036
Preparation of diastereoisomers of the compound 2-(1-bromoethyl)-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethyl ester.
To a solution in 1,2-dichloroethane (70 ml) of 2-ethyl-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethylester (7.0 g; 20 mmoles obtained according to ex. 29), deoxygenated and added with hydrobromic acid (0.324 g; 4 mmoles), it is added dropwise in 1 h under inert atmosphere at +15° C., a solution of bromine (3.20 g; 20 mmoles) in 1,2-dichloroethane (7.0 ml) previously deoxygenated.

reactant | 2-ethyl-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethylester | 20 mmoles, 7.0 g | COC(=O)[C@@H]1OC(O[C@H]1C(=O)OC)(C1=CC=C(C=C1)CC(C)C)CC | C19H26O6
reactant | hydrobromic acid | 4 mmoles, 0.324 g | Br | BrH
reactant | bromine | 20 mmoles, 3.20 g | BrBr | Br2
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 7.0 ml | ClCCCl | C2H4Cl2
product | 2-(1-bromoethyl)-2-[4-(2-methylpropyl)-phenyl]-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethyl ester | COC(=O)[C@@H]1OC(O[C@H]1C(=O)OC)(C1=CC=C(C=C1)CC(C)C)C(C)Br | C19H25BrO6
